US07470664B2
To a solution of (2S)-amino(1-methylcyclohexyl)acetic acid hydrochloride (9.3 g, 73.7 mmol) in CHCl3 (700 mL) was added (R)-(−)-2-phenylglycinol (10.1 g, 73.7 mmol). After stirring for 1 h, the mixture was cooled to 0° C. and trimethylsilylcyanide (19.65 mL, 147.4 mmol) was added. The reaction was then warmed to RT and stirred for 2 d. Brine was then added and the mixture was extracted with DCM. The organic layer was dried over MgSO4 and the solvent was removes in vacuo to yield 28 g of crude silylated material. The mixture was then taken up in DCM (250 mL) and stirred vigorously with 4 N HCl (100 mL) for 24 h. The organic layer was then washed with aq. NaHCO3, dried over MgSO4, and the solvent was removed in vacuo to yield 16 g of crude desilylated material. The aqueous layer was then basified with concentrated NaOH and extracted with EtOAc. The organic layer was then dried over MgSO4 and the solvent was removed in vacuo to yield 3.3 g of crude material. The combined crude material was purified on silica (isco, 120 g, 0-30% EtOac/hex) to yield 5.0 g (25%) of (2R)-{[(1R)-2-hydroxy-1-phenylethyl]amino}(1-methylcyclohexyl)acetonitrile.

reactant | (2S)-amino(1-methylcyclohexyl)acetic acid hydrochloride | 73.7 mmol, 9.3 g | Cl.N[C@H](C(=O)O)C1(CCCCC1)C
reactant | (R)-(−)-2-phenylglycinol | 73.7 mmol, 10.1 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | trimethylsilylcyanide | 147.4 mmol, 19.65 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | HCl | 4 N, 100 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | CHCl3 | 700 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Brine | [Cl-].[Na+].O
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | (2R)-{[(1R)-2-hydroxy-1-phenylethyl]amino}(1-methylcyclohexyl)acetonitrile | 5.0 g, 25% | OC[C@@H](C1=CC=CC=C1)N[C@@H](C#N)C1(CCCCC1)C | C17H24N2O
